US04411911
A 1.2 g quantity of 1-diazo-2-pentanone is dissolved in 50 ml of ether, and 2.3 g of benzenesulfonic acid monohydrate is slowly added to the solution at room temperature. The same procedure as in Example 1 is thereafter followed to give 2.0 g of 2-oxopentylbenzene sulfonate in the form of a colorless transparent oil (Compound 6). Yield 77.2%.

reactant | 1-diazo-2-pentanone | [N+](=[N-])=CC(CCC)=O | C5H8N2O
reactant | benzenesulfonic acid monohydrate | 2.3 g | O.C1(=CC=CC=C1)S(=O)(=O)O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 2-oxopentylbenzene sulfonate | 2.0 g, Yield 77.2% | O=C(COS(=O)(=O)C1=CC=CC=C1)CCC | C11H14O4S
